2195-06-26 09:54:00 Physician Attending Progress Note
Chief Complaint: Resp distress
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pneumonia, lung mass
   24 Hour Events:
 PICC LINE - START [**2195-6-25**] 10:24 PM
   Still has productive cough and hypoxemia.
   Abx discontinued.
                                 History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Anaphylaxis; sw
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Macrolide Antibiotics
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-6-26**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.6
   HR: 101 (94 - 109) bpm
   BP: 116/54(69) {89/53(62) - 117/90(96)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                     97 mL
                                                                  1,647 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                     97 mL
                                                                  1,447 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    800 mL
   Urine:
                                                                    200 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -103 mL
                                                                    847 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI No(t) Normal, No(t) Hyperdynamic), (S1: Normal,
   No(t) Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Diastolic)
   Peripheral Vascular: all present
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : Anterior and posterior, most impressive left
   mid-zone, Bronchial: Left mid zone), Egophony left mid zone. Squeaks at
   both bases.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Not assessed,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   116 K/uL
   79 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.3 mEq/L
   15 mg/dL
   103 mEq/L
   136 mEq/L
   26.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2195-6-26**]  03:46 AM
   WBC
   5.2
   Hct
   26.6
   Plt
   116
   Cr
   1.1
   Glucose
   79
   Other labs: PT / PTT / INR:15.4/32.1/1.4, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:3.7 mg/dL
   Imaging: CXR: RLL, RML, and LLL infiltrates. Trachea displaced to the
   left
   CT: dense infiltrates LLL, RLL (posterior and lateral segments), RML
   infiltrate. Small bilateral effusions. RUL mass. Compared to [**7-15**], RUL
   mass larger. Infiltrates are new.
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPERTENSION, BENIGN
    [**Age over 90 **] y/o F with cough, low grade fever, hypoxemia,mild  hypotension,
   larger PET positive lesion in RUL. Bibasilar consolidations progressed
   inspite of antibiotics.
   DD: Progressive cancer (lung vs thyroid vs breast) vs BOOP vs atypical
   infection/aspiration, but too stable to be the latter.
   - Resp: Bronch with BAL for micro/cyto. If w/u negative, consider
   empiric course of steroids vs biopsy for tissue diagnosis. ASA/plavix
   held. Check sputum cx.
   - Hypotension: resolved with volume repletion.
   - Rest per housestaff note
   ICU Care
   Nutrition: NPO after midnight
   Glycemic Control:
   Lines / Intubation:
   18 Gauge - [**2195-6-25**] 10:22 PM
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient updated on rounds , touch base with son.
   ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: ICU
   Total time spent: 60 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   We met with Mrs. [**Known lastname 8264**]
s two sons and the decision was made to try 1
   final course of antibiotics and then shift care to comfort measures. We
   will not pursue invasive testing such as a bronchoscopy. She will be
   transferred back to [**Hospital 328**] Rehab to complete the antibiotics.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2195-6-26**] 15:33 ------

2195-06-27 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - family meeting and would like comfort as well as abx, DNR/DNI
   confirmed
   - restarted BB at 25 TID
   - sent sputum cx
   - no bronch given tenuous O2 status
   - diet
   - talked to [**Hospital 328**] Rehab MD [**First Name (Titles) **] [**Last Name (Titles) **] about d/c
   Allergies:
   Penicillins
   Anaphylaxis; sw
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Macrolide Antibiotics
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-6-27**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 116 (93 - 120) bpm
   BP: 108/61(70) {88/47(58) - 142/90(96)} mmHg
   RR: 22 (11 - 31) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  4,056 mL
                                                                    763 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                  3,356 mL
                                                                    763 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    380 mL
   Urine:
                                                                  1,390 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,666 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilaterally, Bronchial: left base), + egophony
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, Clubbing, trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   116 K/uL
   8.7 g/dL
   79 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.3 mEq/L
   15 mg/dL
   103 mEq/L
   136 mEq/L
   26.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2195-6-26**]  03:46 AM
   WBC
   5.2
   Hct
   26.6
   Plt
   116
   Cr
   1.1
   Glucose
   79
   Other labs: PT / PTT / INR:15.4/32.1/1.4, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   A/P: [**Age over 90 **] year old female with multiple chronic medical problems
   presenting with 3 weeks of pulmonary symptoms and hypoxia without
   improvement.
   1. Hypotension: clinical picture most consistent with dehydration.
   Patient also has a small body habitus and multiple valvular issues on
   echo from [**6-15**], including 3+ MR which likely reduce forward flow.
   Sepsis is less likely.  Her BP readings from the [**Hospital1 238**] are consistent
   indicate that her baseline BP is 100/60 recently. She is
   fluid-responsive.
   --Continue hydration overnight
   --Convert long acting nodal agents into short acting so we can keep
   rate control without dropping BP
   --Trend BP, family does not want invasive measures
   --Patient clinically stable, mentating and making urine with BP 90s/60s
   2. Bilateral infiltrates: patient with impressive consolidations on CT
   chest, without a clinical picture that matches degree of radiographic
   findings.  She has been on ~3 weeks of antibiotic therapy without
   significant improvement in clinical status.  Consider that this may
   represent BOOP/COP and may require steroids.
   --IP consult in am, NPO after midnight
   --Will not continue antibiotics as she has finished course detailed by
   [**Hospital1 238**]
   --Sputum sample
   --There may be a component of aspiration given her history of
   achalsia/GERD-stricture s/p dilation as she still has a wet cough.
   3. Upper lobe mass: positive PET concerning for malignancy, also with
   thyroid lesion.  Await final read of CT chest as lesion more
   consolidative than mass-like in appearance, currently. Discuss with
   family any further plans for diagnosis. Unlikely to be Tb, will not
   pursue r/o.  Expect that RUL lesion is separate from bibasilar
   consolidations.
   4. AF: currently with HR near 100, BP stable. HR near 100 in [**Hospital1 238**] notes
   as well. On metoprolol and diltiazem as outpatient.
   --Convert to shorter acting medications in setting of hypotension
   --Holding parameters
   --Not on coumadin due to imbalance/fall risk per [**Hospital1 238**] papers
   5. CHF: multiple valves are diseased. Currently pulmonary status mostly
   dictated by consolidations without significant component of fluid
   overload. Clinically dry, does not need diuresis.  On beta-blocker,
   asa/plavix as outpatient.
   6. AAA s/p repair: on asa and plavix as outpatient
   -hold in setting of possible need for biopsy
   7. Chronic pain: oxycontin, gabapentin, acetaminophen. Continue bowel
   regimen. Patient reports having stools.
   8. Osteoporosis: ca/vit D.
   #Chronic renal insufficiency: at baseline
   # Anemia: at baseline
   # Hyponatremia: likely hypovolemic hyponatremia, recheck in am
   # NPO pending possible procedure, IVF for rehydration
   # Access: PIV, PICC, Foley
   # Communication: with patient
   # HCP is son
   # DNR/DNI--has signed comfort care form, will re-discuss with HCP in am
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-6-25**] 10:22 PM
   PICC Line - [**2195-6-25**] 10:24 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2195-06-27 09:47:00 Physician Attending Progress Note
Chief Complaint: Resp distress
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Resp distress
   24 Hour Events:
 NASAL SWAB - At [**2195-6-26**] 08:21 AM
 SPUTUM CULTURE - At [**2195-6-26**] 04:38 PM
   Family meeting yesterday: sons agreed for a course of antibiotics, and
   transfer back to HebReb with DNR/DNI/DNH/CC only. Patient otherwise
   stable.
   History obtained from Patient
   Allergies:
   Penicillins
   Anaphylaxis; sw
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Base
   Unknown;
   Macrolide Antibiotics
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-6-27**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 116 (93 - 120) bpm
   BP: 108/61(70) {88/47(58) - 142/86(82)} mmHg
   RR: 22 (11 - 31) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  4,056 mL
                                                                    946 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                  3,356 mL
                                                                    946 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    380 mL
   Urine:
                                                                  1,390 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,666 mL
                                                                    566 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93% on 5L NC
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI No(t) Normal, No(t) Hyperdynamic), (S1: Normal,
   No(t) Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Diastolic)
   Peripheral Vascular: all present
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : Anterior and posterior, most impressive left
   mid-zone, Bronchial: Left mid zone), Egophony left mid zone. Squeaks at
   both bases.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Not assessed,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   116 K/uL
   79 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.3 mEq/L
   15 mg/dL
   103 mEq/L
   136 mEq/L
   26.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2195-6-26**]  03:46 AM
   WBC
   5.2
   Hct
   26.6
   Plt
   116
   Cr
   1.1
   Glucose
   79
   Other labs: PT / PTT / INR:15.4/32.1/1.4, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:3.7 mg/dL
   spu: op flora
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HYPERTENSION, BENIGN
    [**Age over 90 **] y/o F with hypoxemia, larger PET positive lesion in RUL. Bibasilar
   consolidations progressed inspite of antibiotics.
   DD: Progressive cancer (lung vs thyroid vs breast) vs BOOP vs atypical
   infection/aspiration. Per family meetin yesterday, will limit care to
   keep her comfortable and give a brief course of antibiotics for
   superimposed infection. No treatment for malignancy/BOOP. Comfort care
   at [**Hospital 328**] Rehab.
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines / Intubation:
   18 Gauge - [**2195-6-25**] 10:22 PM
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient and son
   ICU consent signed Comments:
   Code status: DNR / DNI/DNH/CC
   Disposition: HebReb
   Total time spent:
   Patient is critically ill